* AD103 capstone - how hard can each transistor pull?
*
* Before you build an inverter you should know what the two halves of it can
* actually do. Both devices here are W = 1 um, L = 0.15 um - the minimum
* length this process draws, which is what a digital gate uses.
*
* The NMOS is fully on with its source at ground:   V_GS = V_DS = 1.8 V.
* The PMOS is fully on with its source at vdd:      V_SG = V_SD = 1.8 V,
* which means its gate is at 0 V and its drain is at 0 V.
*
*   ngspice -b spice/drive.spice
*
* This is the same device you met in Lab 01 at exactly the same bias, so one
* of the two numbers below should already be familiar.

.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice.tt.red tt

Vdd vdd 0 1.8

* --- the pull-down: NMOS, gate high, source at ground ------------------------
XN dn gn 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1
Vgn gn 0 1.8
Vdn dn 0 1.8

* --- the pull-up: PMOS, gate low, source at vdd ------------------------------
XP dp gp vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1
Vgp gp 0 0
Vdp dp 0 0

.control
op
echo "--- saturation current of one W=1 L=0.15 device of each type (A) ---"
let i_n = -i(Vdn)
let i_p =  i(Vdp)
let ratio = i_n / i_p
print i_n i_p
echo
echo "--- how many times stronger the NMOS is ---"
print ratio
echo
echo "--- the two thresholds the model used (V) ---"
print @m.xn.msky130_fd_pr__nfet_01v8[vth] @m.xp.msky130_fd_pr__pfet_01v8[vth]
.endc
.end
